Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:7],4.54695380691
[C:3]([H:4])[C:5]([H:6])([H:7])[H:15].[H:1][C:2]([C:8][C:9]([H:10])([H:11])[H:12])([C:13][H:14])[H:16]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-8.35498117252
[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.47643859172
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])[C:11]([O:10])([H:12])[H:13]>>[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13],-1.35560451343
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]1=[C:4][O:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-1.48912027062
[H:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14],-4.64543841442
[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.00554944548
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[H:12],3.93406924183
[H:1][O:2][C:3]([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[H:11],-2.05313467179
[H:1][C:2]=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.984383014980001
[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.70185849708
[C:1]#[C:2]/[C:3](=[C:4]\[O:5][H:6])[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3][C:7]([H:8])[H:9].[C:4][O:5][H:6],1.7675809745200002
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]1([H:7])[C:8][O:9][C:10]1([H:11])[H:12],-0.74148792375
[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.9438403367400003
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2],2.06414141928
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],2.57104783325
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.5397657272400003
[H:12].[H:1][C:2]([H:3])([H:4])[O:5][C@:6]([H:7])([O:8][C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.35386342072
[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[C:8]([H:9])[H:10].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-4.440177422430001
[H:10].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.7716572732499998
[C:2]#[C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1]>>[H:1][C:2]#[C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-5.51420674373
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-4.8068567170300005
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([O:8])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.70013843382
[H:5].[O:1][O:2][C:3]([H:4])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.46365439667
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])#[C:8][C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])[H:5],0.496853324882
[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-5.25087066731
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:9].[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12],4.8879643002
